US04761424
4H-Furo[3,2-c][1]benzopyran-2,3-dione (see Scheme VII, Formula XII5Wherein R1 is hydrogen)
To a stirred solution of 4-[(trimethylsilyl)oxy]-2H-1-benzopyran (L. H. Hellberg, and A. Zuarez, Tetrahedron Letters, 40, 3553 (1974)) (205.8 g, 0.917 mole) in anhydrous ether (600 ml) oxalyl chloride (58.2 g, 0.458 mole) is added dropwise over a period of 40 minutes at room temperature under nitrogen. The suspension is stirred at room temperature for 18 hours and then diluted with isopropyl ether (~300 ml). The precipitate is collected by filtration and washed with isopropyl ether to give 80.2 g (86%) of orange-red solid, mp 146°-8° C. Recrystallization from tetrahydrofuranisopropyl ether gives an analytical sample, mp 146°-148° C.

reactant | 4-[(trimethylsilyl)oxy]-2H-1-benzopyran | C[Si](OC1=CCOC2=C1C=CC=C2)(C)C | C12H16O2Si
reactant | ether | 0.458 mole, 600 ml, 58.2 g | CCOCC | C4H10O
reactant | isopropyl ether | ~300 ml | C(C)(C)OC(C)C | C6H14O
product | 4H-Furo[3,2-c][1]benzopyran-2,3-dione | 80.2 g, 86% | O1C(C(C=2COC3=C(C21)C=CC=C3)=O)=O | C11H6O4
